US05157052
Preparation of (±) methyl-11α,16-dihydroxy-16-methyl-9-oxoprostan-1-oate:
(±) methyl-11α,16-dihydroxy-16-methyl-9-oxoprost-13E-en-1-oate (100 mg) in 15 ml of ethanol containing 100 mg of 4% palladium on carbon is hydrogenated at room temperature and atmospheric pressure for 24 minutes. The solution is filtered and evaporated. The residue is chromatographed on silica gel (60% ethyl acetate/40% hexane as eluent) to give 86 mg of desired product as a viscous oil. 1H NMR (CDCl3): ∂0.93 (t, C.20 CH3); 1.18 (d, C.16 CH3 ; 3.68 (s, OCH3); 4.17 (q C.11 H).

reactant | (±) methyl-11α,16-dihydroxy-16-methyl-9-oxoprost-13E-en-1-oate | 100 mg | COC(CCCCCC[C@H]1C(C[C@H]([C@@H]1\C=C\CC(CCCC)(C)O)O)=O)=O | C22H38O5
solvent | ethanol | 15 ml, 100 mg | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (±) methyl-11α,16-dihydroxy-16-methyl-9-oxoprostan-1-oate | 86 mg | COC(CCCCCC[C@H]1C(C[C@H]([C@@H]1CCCC(CCCC)(C)O)O)=O)=O | C22H40O5
